US08084623B2
Freshly crushed potassium hydroxide (35 mg, 0.617 mmol) was added to a solution of 3-benzyl-3-(1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (100 mg, 0.247 mmol) in DMF (1.5 mL). A solution of iodine (63 mg, 0.247 mmol) in DMF (0.5 mL) was then added dropwise, and the reaction mixture was stirred at room temperature for 45 minutes. The reaction was quenched by addition of an aqueous solution of Na2S2O3 and diluted with water. The resulting mixture was extracted with EtOAc; the combined organic extracts were washed with water, dried over MgSO4, filtered and evaporated under reduced pressure. The residue was immediately dissolved in DMF (2 mL), and NaH (60% in mineral oil, 12 mg, 0.296 mmol) was added to the solution. The resulting mixture was stirred for 20 minutes, after which benzenesulfonyl chloride (38 μL, 0.296 mmol) was then added dropwise. The reaction mixture was stirred for 30 minutes, then quenched by addition of water. The resulting mixture was extracted with EtOAc, and the combined organic extracts were washed with water, dried over MgSO4, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography (10% to 30% of EtOAc in hexane) to give 150 mg (91% yield) of 3-(1-benzenesulfonyl-3-iodo-1H-indole-5-carbonyl)-3-benzyl-pyrrolidine-1-carboxylic acid tert-butyl ester as a white foam.

reactant | potassium hydroxide | 0.617 mmol, 35 mg | [OH-].[K+]
reactant | 3-benzyl-3-(1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.247 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(C(=O)C=1C=C2C=CNC2=CC1)CC1=CC=CC=C1 | C25H28N2O3
reactant | iodine | 0.247 mmol, 63 mg | II | I2
reactant | NaH | 0.296 mmol, 12 mg | [H-].[Na+]
reactant | benzenesulfonyl chloride | 0.296 mmol, 38 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-(1-benzenesulfonyl-3-iodo-1H-indole-5-carbonyl)-3-benzyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 150 mg, 91% yield | C(C)(C)(C)OC(=O)N1CC(CC1)(CC1=CC=CC=C1)C(=O)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)I | C31H31IN2O5S
